US04354973
8-Chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine
A mixture of 4.0 g (13 mmole) of 4-[2-benzoyl-4-chlorophenyl]-1H-pyrrole-3-carbonitrile, 4 g of Raney nickel, and 300 ml of acetic acid were hydrogenated on a Parr apparatus for 4 hr. The Raney nickel was removed by filtration, and the filtrate was diluted with 400 ml of ice water. The acetic acid was neutralized with sodium bicarbonate, and the resulting solution extracted with methylene chloride. The methylene chloride solution was washed with water, and was dried with sodium sulfate. Concentration of the methylene chloride solution gave a yellow solid. Recrystallization from methylene chloride/ether gave a white solid, mp 203°-206°.

reactant | 4-[2-benzoyl-4-chlorophenyl]-1H-pyrrole-3-carbonitrile | 13 mmole, 4.0 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=1C(=CNC1)C#N | C18H11ClN2O
catalyst | Raney nickel | 4 g | [Ni] | Ni
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-6-phenyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=CC=CC=C2)=CNC3)C=C1 | C18H13ClN2
